US06891007B2
The copolymerisation was carried out similarly to Example 13. However, 11 mg (22.1 μmoles) of (tBuO)3W≡CtBu, 793 mg (6.63 mmoles) of 5-cyano-2-norbornene and 294 mg (2.21 mmoles) of cyclopentene were weighed out. A molar ratio of 5-cyano-2-norbornene:cyclopentene:(tBuO)3W≡CtBu=300:100:1 was adjusted. 1,2-dichloroethane (C2H4Cl2) was used as solvent. Poly(5-cyano-2-norbornene/cyclopentene) was obtained in 64% yield. The molecular weight of this copolymer was {overscore (M)}w=484,500 g/mole. A DSC measurement of this copolymer gave a glass transition temperature Tg=109° C.

reactant | 5-cyano-2-norbornene | 6.63 mmoles, 793 mg | C(#N)C1C2C=CC(C1)C2 | C8H9N
reactant | cyclopentene | 2.21 mmoles, 294 mg | C1=CCCC1 | C5H8
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-cyano-2-norbornene cyclopentene | 64% yield | C(#N)C1C2C=CC(C1)C2.C1=CCCC1 | InChI=1S/C8H9N.C5H8/c9-5-8-4-6-1-2-7(8)3-6;1-2-4-5-3-1/h1-2,6-8H,3-4H2;1-2H,3-5H2
